US04210758
1,5-dihydro-1,5-dioxo-N-1H-tetrazol-5-yl-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide
A mixture of 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid (2.57 g, 0.01 mole) and 1,1'-carbonyldiimidazole (1.95 g, 0.012 mole) in dimethylformamide is heated at 100 for 60 minutes under nitrogen. The reaction mixture is cooled and stirred at room temperature for 15 minutes. 5-Aminotetrazole monohydrate (1.24 g, 0.012 mole) is added and the resulting mixture is heated at 100 for 60 minutes, cooled, and filtered. The product is recrystallized from dimethylformamide to give white crystals (1.1 g, 34%), m.p. above 300.

reactant | 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid | 0.01 mole, 2.57 g | O=C1C2=C(NC=C1C(=O)O)C(OC1=C2C=CC=C1)=O | C13H7NO5
reactant | 1,1'-carbonyldiimidazole | 0.012 mole, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-Aminotetrazole monohydrate | 0.012 mole, 1.24 g | O.NC1=NN=NN1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,5-dihydro-1,5-dioxo-N-1H-tetrazol-5-yl-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide | 1.1 g, 34% | O=C1C2=C(NC=C1C(=O)NC1=NN=NN1)C(OC1=C2C=CC=C1)=O | C14H8N6O4
